US08334287B2
e) 4-chloro-2-methyl-5-(2-methyl-imidazol-1-yl)-2H-pyridazin-3-one
A solution of 10.0 g (54.2 mmol) of 4,5-Dichloro-2-methyl-2H-pyridazin-3-one (CAS: [933-76-6]) and 8.90 g (108.4 mmol) of 2-methylimidazole in 50 ml of dioxane was stirred for 16 h at 100° C. The solution was concentrated in vaccuo and the residue was purified by flash chromatography over silicagel using a 95:5 mixture of methylene chloride and methanol as eluant to yield 3.33 g (14.82 mmol, 27%) of the title compound as a white crystalline solid, MS: m/e=225.1, 227.1 (M+H+).

reactant | 4,5-Dichloro-2-methyl-2H-pyridazin-3-one | 54.2 mmol, 10.0 g | ClC=1C(N(N=CC1Cl)C)=O | C5H4Cl2N2O
reactant | 2-methylimidazole | 108.4 mmol, 8.90 g | CC=1NC=CN1 | C4H6N2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 4-chloro-2-methyl-5-(2-methyl-imidazol-1-yl)-2H-pyridazin-3-one | 14.82 mmol, 3.33 g, 27% | ClC=1C(N(N=CC1N1C(=NC=C1)C)C)=O | C9H9ClN4O
